US05077304
8.15 g of 2,4-diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl isothiocyanate are diluted with 30 ml of toluene, and 2.0 g of tert.-butylamine are added dropwise. The reaction mixture is then further stirred for 2 hours at approximately +60° C. The reaction mixture is concentrated and hexane is added to the residue. The resulting solid is filtered off and subsequently washed with hexane. 1-tert.-Butyl-3-[2,4-diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl]-thiourea is obtained in the form of colourless crystals, m.p. 165°-167° C.

reactant | 2,4-diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl isothiocyanate | 8.15 g | C(C)(C)C1=NC(=CC(=C1N=C=S)C(C)C)OC1=CC=C(C=C1)Cl | C18H19ClN2OS
reactant | tert.-butylamine | 2.0 g | C(C)(C)(C)N | C4H11N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-tert.-Butyl-3-[2,4-diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl]-thiourea | C(C)(C)(C)NC(=S)NC=1C(=NC(=CC1C(C)C)OC1=CC=C(C=C1)Cl)C(C)C | C22H30ClN3OS
